US07141586B2
A solution of methyl magnesium chloride (3M in tetrahydrofuran, 19 ml, 57 mmol) was added to a solution of tert-butyl 2-oxocyclohexylcarbamate (4.0 g, 18.8 mmol) (Synth. Commun. (1992), 22(20), 3003–12) in tetrahydrofuran (80 ml) at −78° C. The mixture was allowed to warm to ambient temperature and was stirred for 3 h. The mixture was quenched by the addition of saturated ammonium chloride solution (20 ml) and was partitioned between water and diethyl diethyl ether. The organic phase was washed with water, brine, dried over MgSO4, and the solvent removed under reduced pressure to give a white solid which was purified by flash column chromatography using ethyl acetate:cyclohexane (98:2 to 70:30) as eluant to give the less polar diastereoisomer of tert-butyl 2-hydroxy-2-methylcyclohexylcarbamate (940 mg) as a white solid.

reactant | methyl magnesium chloride | 57 mmol, 3M, 19 ml | C[Mg]Cl
reactant | tert-butyl 2-oxocyclohexylcarbamate | 18.8 mmol, 4.0 g | O=C1C(CCCC1)NC(OC(C)(C)C)=O | C11H19NO3
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | tert-butyl 2-hydroxy-2-methylcyclohexylcarbamate | 940 mg | OC1(C(CCCC1)NC(OC(C)(C)C)=O)C | C12H23NO3
